US05641765
iv) 17β-(5,5,5-trifluoro-1-oxopentyl)-androsta-3,5-diene-3-carboxaldehyde
Tetrapropyl ammonium perruthenate (10 mg, 0.028 mmol) was added to a solution of (17β)-17-(5,5,5-trifluoro-1-hydroxypentyl)-androsta-3,5-diene-3-methanol (65 mg, 0.15 mmol) and 4-methylmorpholine N-oxide (80 mg, 0.68 mmol) in CH2Cl2 (2.0 ml) at RT. After 1 h the reaction was flash chromatographed (silica gel, 20% EtOAc/80% hexanes) to yield the title compound.

reactant | (17β)-17-(5,5,5-trifluoro-1-hydroxypentyl)-androsta-3,5-diene-3-methanol | 0.15 mmol, 65 mg | FC(CCCC(O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)CO)(F)F | C25H37F3O2
reactant | 4-methylmorpholine N-oxide | 0.68 mmol, 80 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 2.0 ml | C(Cl)Cl | CH2Cl2
catalyst | Tetrapropyl ammonium perruthenate | 0.028 mmol, 10 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 17β-(5,5,5-trifluoro-1-oxopentyl)-androsta-3,5-diene-3-carboxaldehyde | FC(CCCC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C=O)(F)F | C25H33F3O2
